US04727081
2-(Methylaminothioxomethyl)-N-[3-[3-(1-piperidinylmethyl)phenoxy]-propyl]-hydrazine carboxamide
0.5 g (6.6 mmol) of methylisothiocyanate are added to 1.0 g (3.3 mmol) of N-[3-[3-(1-piperidinylmethyl) phenoxy]propyl]-hydrazine carboxamide in 20 ml of THF and the mixture is stirred at room temperature for 12 hours. The precipitate obtained is filtered off and recrystallised from ethanol. The analytical values are summarized in Table I.

reactant | methylisothiocyanate | 6.6 mmol, 0.5 g | CN=C=S | C2H3NS
reactant | N-[3-[3-(1-piperidinylmethyl) phenoxy]propyl]-hydrazine carboxamide | 3.3 mmol, 1.0 g | N1(CCCCC1)CC=1C=C(OCCCNC(=O)NN)C=CC1 | C16H26N4O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(Methylaminothioxomethyl)-N-[3-[3-(1-piperidinylmethyl)phenoxy]-propyl]-hydrazine carboxamide | CNC(NNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1)=S | C18H29N5O2S
